US07592349B2
4-(3-Diethylamino-propyl)-phenyl]-[S-(4-methoxy-phenyl)-pyrimidin-2-yl]-amine can be prepared by the following procedure. Diethylamine (10 mmol), EDC (25 mmol) and DMAP (0.1 mmol) are dissolved in dichloromethane (3 mL) and added to the crude 3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionic acid dissolved in NMP (from example 5ao) at rt. After 3 h, sat. aq NH4Cl is added and the mixture is extracted with EtOAc. The combined extracts are dryed over anhydrous Na2SO4 and solvent is removed. Purification by preparative HPLC yields N,N-diethyl-3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionamide.

reactant | Diethylamine | 10 mmol | C(C)NCC | C4H11N
reactant | EDC | 25 mmol
reactant | 3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionic acid | COC1=CC=C(C=C1)C=1C=NC(=NC1)NC1=CC=C(C=C1)CCC(=O)O | C20H19N3O3
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | DMAP | 0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N,N-diethyl-3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionamide | C(C)N(C(CCC1=CC=C(C=C1)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC)=O)CC | C24H28N4O2
